US06489487B1
A mixture of 437 mg (1.4 mmol) of 4-(5-bromo-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 299 of the present invention), 325 mg (2.8 mol) of benzylacetylene, 41 mg (0.058 mmol) of PdCl2(PPh3)2, 33 mg (0.17 mmol) of copper (I) iodide, 82 mg (0.31 mmol) of triphenylphosphine and 0.80 g of triethylamine in 4 ml of acetonitrile was heated under reflux under an atmosphere of nitrogen for 9 hours. After cooling to room temperature, the reaction mixture was diluted with tert-butyl ether, washed with water, dried and concentrated. The residue was subjected to silica gel column chromatography (eluted with hexane:ethyl acetate=2:1) to obtain 0.25 g of 4-{5-(3-phenyl-l-propynyl)-2-methylbenzyl}-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 535 of the present invention).

reactant | 4-(5-bromo-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.4 mmol, 437 mg | BrC=1C=CC(=C(CN2C(N(N=C2OC)C)=O)C1)C | C12H14BrN3O2
reactant | benzylacetylene | 2.8 mol, 325 mg | C(C1=CC=CC=C1)C#C | C9H8
reactant | triphenylphosphine | 0.31 mmol, 82 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.80 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | tert-butyl ether | C(C)(C)(C)OC(C)(C)C | C8H18O
catalyst | PdCl2(PPh3)2 | 0.058 mmol, 41 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.17 mmol, 33 mg | [Cu]I
product | 4-{5-(3-phenyl-l-propynyl)-2-methylbenzyl}-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.25 g | C1(=CC=CC=C1)CC#CC=1C=CC(=C(CN2C(N(N=C2OC)C)=O)C1)C | C21H21N3O2
